US03972901
To a glass tube was added maleic anhydride (73.3 mg., 0.75 mmole) and 1,1-dichloro-2,2-dimethylcyclopropane (119.3 mg., 0.86 mmole). The tube was sealed and heated at 165°-170°C. for 6-8 hours. The tube was allowed to cool and was opened (caution HCl pressure). The initially liquid product mixture crystallized with vigorous evolution of hydrogen chloride. Extraction of the crude solid (m.p. 60°-70°C.) with boiling n-hexane gave 1-chloro-2-methylcyclohexene-4,5-dicarboxylic anhydride (20.5 mg., 10 percent yield, white plates m.p. 76°-78°C.). The melting point of 1-chloro-2-methylcyclohexene-4,5-dicarboxylic anhydride as reported in the literature, J. Applied Chem. (London) 3, 145 (1953), is 79°-80°C.

reactant | maleic anhydride | 0.75 mmole, 73.3 mg | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 1,1-dichloro-2,2-dimethylcyclopropane | 0.86 mmole, 119.3 mg | ClC1(C(C1)(C)C)Cl | C5H8Cl2
reactant | HCl | Cl | ClH
product | 1-chloro-2-methylcyclohexene-4,5-dicarboxylic anhydride | 20.5 mg, 10 percent yield | ClC1=C(CC2C(C1)C(=O)OC2=O)C | C9H9ClO3
